US20010047099A1
To a solution of fuming nitric acid (10 ML) and fuming sulfuric acid (10 mL) was added methyl 6-bromo-3-chloropyridine-2-carboxylate, N-oxide and the reaction was heated to 70° C. in an oil bath for 4 hr. The mixture was poured over ice water (100 mL) and extracted with ethyl acetate (3×75 mL) and the combined extracts were backwashed with brine, dried (Na2SO4) and concentrated. The dark oil was chromatographed over silica in 4:1 EtOAc/hexane to give methyl 6-bromo-3-chloro-4-nitropyridine-2-carboxylate, N-oxide (0.007 mol, 2.2 g). 1H NMR (CDCl3): δ 4.1 (3H, s), 8.4 (1H, s).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl 6-bromo-3-chloropyridine-2-carboxylate | BrC1=CC=C(C(=N1)C(=O)OC)Cl | C7H5BrClNO2
product | methyl 6-bromo-3-chloro-4-nitropyridine-2-carboxylate | BrC1=CC(=C(C(=N1)C(=O)OC)Cl)[N+](=O)[O-] | C7H4BrClN2O4
